US08168794B2
All of reagents 5,5-dimethyl-3-oxocyclohex-1-enyl trifluoromethanesulfonate (1.0 eq), potassium acetate (3.0 eq), and bis(pinacolato)diboron (2.0 eq) were added to 1,4-dioxane (0.2 M) in a round bottom flask and degassed by bubbling N2 through the mixture for 10 min. PdCl2(dppf)-DCM adduct (0.03 eq) was added and the reaction heated to 80° C. fitted with a reflux condenser on an oil bath under N2 overnight. The mixture was cooled to room temperature, filtered through a coarse frit glass funnel, the cake rinsed with 1,4-dioxane to give the 5,5-dimethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-enone in 1,4-dioxane which was used to next step without further purification. LC/MS (m/z): MH+ (boronic acid)=169.1, Rt=0.50 min.

reactant | 5,5-dimethyl-3-oxocyclohex-1-enyl trifluoromethanesulfonate | 1.0 eq | FC(S(=O)(=O)OC1=CC(CC(C1)(C)C)=O)(F)F | C9H11F3O4S
reactant | potassium acetate | 3.0 eq | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 2.0 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | PdCl2(dppf) DCM | 0.03 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | 1,4-dioxane | 0.2 M | O1CCOCC1 | C4H8O2
product | 5,5-dimethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)cyclohex-2-enone | CC1(CC(=CC(C1)=O)B1OC(C(O1)(C)C)(C)C)C | C14H23BO3
